US07157455B2
[4-Amino-2-[1-(thiophene-3-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone
The title compound was prepared from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone, Example 59, and 3-thiophenesulfonyl chloride (Maybridge) by the procedure described in Example 152. HR-MS (ES, m/z) calculated for C21H23FN5O4S2 [(M+H)+] 492.1170, observed 492.1175.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1 | C17H20FN5O2
reactant | 3-thiophenesulfonyl chloride | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | [4-Amino-2-[1-(thiophene-3-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCN(CC1)S(=O)(=O)C1=CSC=C1 | C21H22FN5O4S2
